US09029391B2
2-azidoethyl acetate
A mixture of 2-bromoethyl acetate (500 μl, 4.54 mmol) in N,N-dimethylformamide (DMF) (2.0 mL) was treated with sodium azide (295 mg, 4.54 mmol) and then heated to 70° C. for 2 hours. The mixture was diluted with water and then extracted with ether. The extracts were washed with water, then brine, dried over sodium sulfate, filtered and concentrated to afford the title compound as a colorless liquid. 1H NMR (400 MHz, CHLOROFORM-d) d=4.29-4.19 (m, 2 H), 3.53-3.44 (m, 2 H), 2.11 (s, 3 H).

reactant | 2-bromoethyl acetate | 4.54 mmol, 500 μl | C(C)(=O)OCCBr | C4H7BrO2
reactant | sodium azide | 4.54 mmol, 295 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-azidoethyl acetate | C(C)(=O)OCCN=[N+]=[N-] | C4H7N3O2
